US06071899
4-Hexylsulfinyl-1-(4-phenyl-2-oxobutyl )azetidin-2-one, (>99% diastereoisomer 1)
A solution of m-chloroperbenzoic acid (2.48 g, 0.0144 mol) in dichloromethane (50 ml) was added dropwise to a stirred solution of 4-hexylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one (4.0 g, 0.012 mol) in dichloromethane (50 ml) at -60° C. Stirring was continued at -60° C. for 30 minutes then the mixture was poured into an aqueous solution of sodium hydrogen carbonate and sodium sulphite. The layers were separated and the aqueous was extracted with dichloromethane. The combined extracts were dried (MgSO4) and evaporated to give a solid which was slurried in ether, filtered, washed with ether and petrol. The solid was recrystallised from ethyl acetate to give the title compound as white crystals, 920 mg, (22%), m.p. 154-5° C.

reactant | m-chloroperbenzoic acid | 0.0144 mol, 2.48 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-hexylthio-1-(4-phenyl-2-oxobutyl)azetidin-2-one | 0.012 mol, 4.0 g | C(CCCCC)SC1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C19H27NO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-Hexylsulfinyl-1-(4-phenyl-2-oxobutyl )azetidin-2-one | C(CCCCC)S(=O)C1CC(N1CC(CCC1=CC=CC=C1)=O)=O | C19H27NO3S
